US07399867B2
Place dimethylamine (5.25 mL of a 2.0 M solution in THF, 10.4 mmol), triethylamine (2.04 mL, 14.68 mmol) and dichloromethane (30 mL) in a round bottom flask. Cool this solution to 0° C., while stirring, and add a solution of 4-bromobenzenesulfonyl-chloride (2.5 g, 9.78 mmol) in dichloromethane (30 mL); Add additional dichloromethane (10 mL) and stir the reaction overnight, letting it warm to ambient temperature. Concentrate the reaction in vacuo. Take up the resulting solid in ethyl acetate and filter. Evaporate the filtrate in vacuo and dry the resulting solid by vacuum to give 2.50 g of 4-bromo-N,N-dimethyl-benzenesulfonamide (97%).

reactant | dimethylamine | CNC | C2H7N
reactant | triethylamine | 14.68 mmol, 2.04 mL | C(C)N(CC)CC | C6H15N
reactant | 4-bromobenzenesulfonyl-chloride | 9.78 mmol, 2.5 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | THF | C1CCOC1 | C4H8O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-bromo-N,N-dimethyl-benzenesulfonamide | 2.50 g, 97% | BrC1=CC=C(C=C1)S(=O)(=O)N(C)C | C8H10BrNO2S
